US06921821B2
6,7-Dichloro-4-oxo-4H-chromene-2-carboxylic acid
2-(3,4-Dichloro-phenoxy)-but-2-enedioic acid (17.98 g, 64.9 mmol) was combined with Eaton's Reagent (140 ml). The mixture was heated at 70° C overnight. After 14 h, the mixture was cooled to ambient temperature and added to ice (600 g). The resulting white precipitate was collected by filtration, washed with copious water, and air-dried. The white solid (16.8 g) was dissolved in hot DMSO and cooled slowly to ambient temperature. The supernatant was recovered and concentrated, and the process was repeated to provide the desired compound (4.96 g, 29%) as a white solid. The crystalline material proved to be the undesired 5,6-dichloro isomer. MS (APCI) m/z 259 [M+H]+; 1H NMR (300 MHz, DMSO-D6) δ ppm 6.96 (s, 1H) 8.16 (s, 1H) 8.26 (s, 1H).

reactant | 2-(3,4-Dichloro-phenoxy)-but-2-enedioic acid | 64.9 mmol, 17.98 g | ClC=1C=C(OC(C(=O)O)=CC(=O)O)C=CC1Cl | C10H6Cl2O5
solvent | Eaton's Reagent | 140 ml | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 6,7-Dichloro-4-oxo-4H-chromene-2-carboxylic acid | 4.96 g, 29% | ClC=1C=C2C(C=C(OC2=CC1Cl)C(=O)O)=O | C10H4Cl2O4
